US05214197
A mixture of THF (133.05 ml), methanol (66.52 ml) and triethylborane (1M in THF) (72.71 ml) was stirred at room temperature for one hour in an argon atmosphere. To a solution of 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (12.79 g, 51.94 mmol) in THF (312 ml) cooled to -78° C., the above boran solution was dropwise added over 45 minutes. After stirring the mixture at -78° C. for 50 minutes, sodium borohydride (2.26 g, 59.72 mmol) was added in one portion, followed by stirring at -78° C. for 3 hours. After dropwise adding a mixed solvent of acetic acid and methanol (1:1) (54 ml) to the reaction solution at -78° C. over 15 minutes, the solution was stirred for additional 15 minutes. The resulting mixture was poured in a 5 % solution of ammonium chloride (511 ml) and stirred for 15 minutes. After adjusting pH to 7.5, the organic layer was evaporated off under reduced pressure. After adding 10 % aqueous hydrogen peroxide (104 ml) and adjusting pH of the mixture to 7, a 5 % aqueous solution of sodium sulfite (312 ml) was added, followed by stirring at room temperature for 40 minutes. Then the mixture was extracted with ethyl acetate, and organic layers were colleted, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate (11.22 g, 45.19 mmol). Yield, 87 %.

reactant | triethylborane | 1M, 72.71 ml | C(C)B(CC)CC | C6H15B
reactant | 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 51.94 mmol, 12.79 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)=O | C11H18O6
reactant | sodium borohydride | 59.72 mmol, 2.26 g | [BH4-].[Na+]
reactant | ammonium chloride | 511 ml | [Cl-].[NH4+]
solvent | THF | 312 ml | C1CCOC1 | C4H8O
solvent | THF | 133.05 ml | C1CCOC1 | C4H8O
solvent | methanol | 54 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 66.52 ml | CO | CH4O
product | 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate | 45.19 mmol, 11.22 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)O | C11H20O6
